US04097487
By following general method B using 1.01 g. of 4-amino-5-chloro-2-methoxybenzoic acid and 1.0 g. of 2-aminomethyl-1-benzyl-5-methylpyrrolidine, 1.5 g. of N-(1-benzyl-5-methyl-2-pyrrolidinylmethyl)-4-amino-5-chloro-2-methoxybenzamide was obtained.

reactant | 4-amino-5-chloro-2-methoxybenzoic acid | NC1=CC(=C(C(=O)O)C=C1Cl)OC | C8H8ClNO3
reactant | 2-aminomethyl-1-benzyl-5-methylpyrrolidine | NCC1N(C(CC1)C)CC1=CC=CC=C1 | C13H20N2
product | N-(1-benzyl-5-methyl-2-pyrrolidinylmethyl)-4-amino-5-chloro-2-methoxybenzamide | C(C1=CC=CC=C1)N1C(CCC1C)CNC(C1=C(C=C(C(=C1)Cl)N)OC)=O | C21H26ClN3O2
